US07601722B2
A solution of tert-butyl 4-{3-[3-(3,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperazine-1-carboxylate (0.16 g, 0.3 mmol) in dichloromethane (10 mL) was treated with hydrogen chloride (6.0 mL of a 4 M solution in dioxane), resulting in a white precipitate that was evaporated and dried under vacuum to provided 1-(3,4-difluorophenyl)-3-(3-piperazin-1-ylpropyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.11 g, 81%) as a white solid:

reactant | tert-butyl 4-{3-[3-(3,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperazine-1-carboxylate | 0.3 mmol, 0.16 g | FC=1C=C(C=CC1F)N1S(N(C2=C1C=CC=C2)CCCN2CCN(CC2)C(=O)OC(C)(C)C)(=O)=O | C24H30F2N4O4S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3,4-difluorophenyl)-3-(3-piperazin-1-ylpropyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.11 g, 81% | FC=1C=C(C=CC1F)N1S(N(C2=C1C=CC=C2)CCCN2CCNCC2)(=O)=O | C19H22F2N4O2S
